### PR TITLE
[Merged by Bors] - feat(Analysis/InnerProductSpace/Spectrum): eigenspaces of a compact selfadjoint operator exhaust the Hilbert space

### PR DESCRIPTION
**Pull request by tb65536**
This PR proves that the eigenspaces of a compact self-adjoint operator are finite dimensional and have trivial orthogonal complement.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/InnerProductSpace/Spectrum.lean [hunk 1]
```diff
@@ -368,3 +375,69 @@ theorem eigenvalue_pos_of_pos {μ : ℝ} {T : E →ₗ[𝕜] E} (hμ : HasEigenv
...
+
+set_option backward.isDefEq.respectTransparency false in
+/-- The **Spectral Theorem** for compact self-adjoint operators: the eigenspaces of a compact
+self-adjoint operator have trivial orthogonal complement. -/
+theorem orthogonalComplement_iSup_eigenspaces_eq_bot
+    (hT : IsCompactOperator T) (hT' : T.IsSymmetric) :
+    (⨆ μ, eigenspace (T : Module.End 𝕜 E) μ)ᗮ = ⊥ := by
+  let S : (⨆ μ, eigenspace T μ : Submodule 𝕜 E)ᗮ →L[𝕜] (⨆ μ, eigenspace T μ : Submodule 𝕜 E)ᗮ :=
+  { __ := T.restrict hT'.orthogonalComplement_iSup_eigenspaces_invariant
+    cont := by fun_prop }
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Spectrum.lean]:
```suggestion
    { __ := T.restrict hT'.orthogonalComplement_iSup_eigenspaces_invariant
      cont := by fun_prop }
```

File: Mathlib/Analysis/InnerProductSpace/Spectrum.lean [hunk 2]
```diff
@@ -368,3 +375,69 @@ theorem eigenvalue_pos_of_pos {μ : ℝ} {T : E →ₗ[𝕜] E} (hμ : HasEigenv
...
+    rw [Subtype.ext_iff, Submodule.coe_zero, ← Submodule.mem_bot 𝕜,
+      ← Submodule.inf_orthogonal_eq_bot (⨆ μ, eigenspace T μ : Submodule 𝕜 E)]
+    refine ⟨Submodule.mem_iSup_of_mem μ ?_, v.2⟩
+    rw [mem_eigenspace_iff] at hv ⊢
+    exact Subtype.ext_iff.mp hv
+  have h μ : HasEigenvalue (S : End 𝕜 (⨆ μ, eigenspace T μ : Submodule 𝕜 E)ᗮ) μ → μ = 0 := by
+    intro hμ
+    rw [hasEigenvalue_iff] at hμ
+    specialize hS μ
+    contradiction
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Spectrum.lean]:
```suggestion
    simp_all [hasEigenvalue_iff]
```

File: Mathlib/Analysis/InnerProductSpace/Spectrum.lean [hunk 3]
```diff
@@ -368,3 +375,69 @@ theorem eigenvalue_pos_of_pos {μ : ℝ} {T : E →ₗ[𝕜] E} (hμ : HasEigenv
...
+  rw [eq_zero_of_forall_hasEigenvalue_eq_zero hS_compact hS_symm] at h
+  rw [← Submodule.subsingleton_iff_eq_bot]
+  by_contra! hV
+  simpa [h] using hS 0
+
+/-- The **Spectral Theorem** for compact self-adjoint operators: the eigenspaces of a compact
+self-adjoint operator are finite-dimensional. -/
+theorem finite_dimensional_eigenspace (hT : IsCompactOperator T) (μ : 𝕜) (hμ : μ ≠ 0) :
+    FiniteDimensional 𝕜 (eigenspace T.toLinearMap μ) := by
+  have inv : ∀ x ∈ eigenspace T.toLinearMap μ, T x ∈ eigenspace T.toLinearMap μ := by simp_all
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Spectrum.lean]: If we don't already have it, can you please prove the lemma that eigenspaces (and generalized eigenspaces) are in the `Module.End.invtSubmodule`?

File: Mathlib/Analysis/InnerProductSpace/Spectrum.lean [hunk 4]
```diff
@@ -368,3 +375,69 @@ theorem eigenvalue_pos_of_pos {μ : ℝ} {T : E →ₗ[𝕜] E} (hμ : HasEigenv
...
+  replace hT := hT.restrict' inv
+  have hx : T.restrict inv = μ • 1 := by
+    ext x
+    exact mem_eigenspace_iff.mp x.2
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Spectrum.lean]: This should be a lemma

File: Mathlib/Analysis/InnerProductSpace/Spectrum.lean [hunk 5]
```diff
@@ -368,3 +375,69 @@ theorem eigenvalue_pos_of_pos {μ : ℝ} {T : E →ₗ[𝕜] E} (hμ : HasEigenv
...
+      intro μ hμ
+      contrapose! h
+      exact ⟨μ, (hT.hasEigenvalue_iff_mem_spectrum h).mpr hμ, h⟩
+    rw [← isSelfAdjoint_iff_isSymmetric] at hT'
+    rw [← nnnorm_eq_zero, ← ENNReal.coe_eq_zero, ← T.spectralRadius_eq_nnnorm hT', spectralRadius]
+    obtain (h | h) := Set.subset_singleton_iff_eq.mp h <;> simp [h]
+  · rintro rfl μ h
+    obtain ⟨v, hv⟩ := h.exists_hasEigenvector
+    rw [hasEigenvector_iff, mem_genEigenspace_one] at hv
+    exact (smul_eq_zero_iff_left hv.2).mp hv.1.symm
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Spectrum.lean]:
```suggestion
  rw [← nnnorm_eq_zero, ← ENNReal.coe_eq_zero, ← T.spectralRadius_eq_nnnorm hT'.isSelfAdjoint,
    spectralRadius, ← not_iff_not, ENNReal.iSup_eq_zero]
  push Not
  apply exists_congr
  simp +contextual [hT.hasEigenvalue_iff_mem_spectrum]
```

File: Mathlib/LinearAlgebra/Eigenspace/Basic.lean [hunk 6]
```diff
@@ -470,6 +470,30 @@ lemma HasEigenvalue.pow {f : End R M} {μ : R} (h : f.HasEigenvalue μ) (n : ℕ
...
+    genEigenspace f μ n ∈ invtSubmodule f := by
+  intro x hx
+  simp only [Submodule.mem_comap, mem_genEigenspace, LinearMap.mem_ker] at hx ⊢
+  obtain ⟨k, hk, hx⟩ := hx
+  refine ⟨k, hk, ?_⟩
+  revert x
+  induction k
+  case zero => simp_all
+  case succ k ih =>
+    intro x hx
```
Comment (j-loreaux) [inline Mathlib/LinearAlgebra/Eigenspace/Basic.lean]:
```suggestion
  induction k generalizing x
  case zero => simp_all
  case succ k ih =>
```

**Review by j-loreaux — COMMENTED** [review]
My only other problem here is the PR title. I would not call this the spectral theorem, and I'm not convinced others would either. You have indeed shown that the eigenspaces exhaust the space, but you have not provided an isomorphism between `E` and the `lp` (with `p := 2`) space where the types are the eigenspaces. This is what I would consider to be the spectral theorem. In other words, in order to make the PR title valid, I would want to see the analogue of [LinearMap.IsSymmetric.diagonalization](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/InnerProductSpace/Spectrum.html#LinearMap.IsSymmetric.diagonalization).

I suggest:

> feat: eigenspaces of a compact selfadjoint operator exhaust the HIlbert space

bors d+
